US05952324
Step 3: Hexahydro-5-(phenylmethyl)-1H-thieno[3,4-c]pyrrole
To a stirred solution of cis-1-(phenylmethyl)-3,4-di(methylsulfonyloxy)methylpyrrolidine (9.2 g, mmol), in dry DMSO (48 mL) was added anhydrous sodium sulfide (5.7 g, 73.3 mmol). The dark reaction mixture was heated at 120° C. for 18 h. The cooled reaction mixture was poured into ice H2O (150 mL). The resulting mixture was washed with ether (3×200 mL). The combined organics were dried (MgSO4), filtered and concentrated. The resulting residue was purified by flash chromatography using ethyl acetate as the eluent to afford 4.2 g (19.1 mmol, 78%) of the desired product as a thick yellow oil. HRMS (EI) calcd for C13H17NS 219.1082, found 219.1080. Anal. calcd for C13H17NS: C, 71.19; H, 7.81; N, 6.39. Found: C, 70.82; H, 7.83; N, 6.35.

reactant | cis-1-(phenylmethyl)-3,4-di(methylsulfonyloxy)methylpyrrolidine | 9.2 g | C1(=CC=CC=C1)CN1C[C@H]([C@H](C1)COS(=O)(=O)C)COS(=O)(=O)C | C15H23NO6S2
reactant | sodium sulfide | 73.3 mmol, 5.7 g | [S-2].[Na+].[Na+]
solvent | DMSO | 48 mL | CS(=O)C | C2H6OS
product | Hexahydro-5-(phenylmethyl)-1H-thieno[3,4-c]pyrrole | 19.1 mmol, 4.2 g, 78% | C1(=CC=CC=C1)CN1CC2C(C1)CSC2 | C13H17NS
